US07514419B2
To a stirring solution of 4-(4′-methoxy-2′-methyl-3′-iso-propylbenzyl)-3-methyl-anisole (0.8 g, 2.68 mmol) in CH2Cl2 (10 mL) at −20° C. was added BBr3 (10.7 mL, 1M in CH2Cl2). The reaction mixture was stirred at room temperature for 16 hrs. Ice was add and the mixture was diluted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:1) to afford 4-(4′-hydroxy-2′-methyl-3′-iso-propylbenzyl)-3-methylphenol as a yellow solid (0.54 g, 75%): 1H NMR (200 MHz, DMSO-d6): δ 9.03 (s, 1 H), 8.84 (s, 1 H), 6.41-6.60 (m, 5 H), 3.65 (s, 2 H), 3.33 (m, 1 H), 2.12 (s, 3 H), 2.08 (s, 3 H), 1.27 (d, J=6.9 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=20% ethyl acetate in hexanes; Rf=0.31.

reactant | 4-(4′-methoxy-2′-methyl-3′-iso-propylbenzyl)-3-methyl-anisole | 2.68 mmol, 0.8 g | COC1=C(C(=C(CC2=C(C=C(C=C2)OC)C)C=C1)C)C(C)C | C20H26O2
reactant | BBr3 | 1M, 10.7 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4′-hydroxy-2′-methyl-3′-iso-propylbenzyl)-3-methylphenol | 0.54 g, 75% | OC1=C(C(=C(CC2=C(C=C(C=C2)O)C)C=C1)C)C(C)C | C18H22O2
